US08445501B2
trans-4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-acetylamino-cyclohexyl)-amide
Starting from trans-4-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A182) and acetyl chloride the title compound was obtained as colorless solid.

reactant | trans-4-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCCOC | C23H29N5O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | trans-4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-acetylamino-cyclohexyl)-amide | C(C)(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCCOC | C25H31N5O5
